US07655645B2
A mixture of (R)-2-(4-Boc-2-methylpiperazin-1-yl)acetamide (114 mg, 0.44 mmol) and 5N hydrochloric acid (0.2 ml) in 1,4-dioxane (2.0 ml) was stirred at 90° C. for 20 min. The mixture was concentrated in vacuo to afford (R)-2-(2-methylpiperazin-1-yl)acetamide hydrochloride salt quantitatively.

reactant | (R)-2-(4-Boc-2-methylpiperazin-1-yl)acetamide | 0.44 mmol, 114 mg | C(=O)(OC(C)(C)C)N1C[C@H](N(CC1)CC(=O)N)C | C12H23N3O3
reactant | hydrochloric acid | 5N, 0.2 ml | Cl | ClH
solvent | 1,4-dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
product | (R)-2-(2-methylpiperazin-1-yl)acetamide hydrochloride salt | Cl.C[C@H]1N(CCNC1)CC(=O)N | InChI=1S/C7H15N3O.ClH/c1-6-4-9-2-3-10(6)5-7(8)11;/h6,9H,2-5H2,1H3,(H2,8,11);1H/t6-;/m1./s1
